US05786379
(a) Preparation of methyl 4-[3-(1-adamantyl)-4-methoxyphenylmethylsulfinyl]benzoate
In a manner analogous to that of Example 2(b), 2.96 g (7 mmol) of methyl 4-[3-(1-adamantyl)-4-methoxyphenylmethylthio]benzoate were reacted with 1.42 g (7 mmol) of meta-chloroperbenzoic acid and 2.33 g (76%) of the expected methyl ester, having a melting point of 151°-2° C., were recovered.

reactant | methyl 4-[3-(1-adamantyl)-4-methoxyphenylmethylthio]benzoate | 7 mmol, 2.96 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)CSC2=CC=C(C(=O)OC)C=C2 | C26H30O3S
reactant | meta-chloroperbenzoic acid | 7 mmol, 1.42 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
product | methyl 4-[3-(1-adamantyl)-4-methoxyphenylmethylsulfinyl]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OC)CS(=O)C2=CC=C(C(=O)OC)C=C2 | C26H30O4S
